US07214650B2
Preparation of Poly(DMAM-co-MAA) (2:1) Copolymer
2-(methylamino)ethyl methacrylate (98.00 g, 623.3 mmol), methacrylic acid (26.83 g, 311.7 mmol), 2,2′-azobisisobutyronitrile (0.77 g, 4.7 mmol), 1,4-dioxane (435 ml) and 2-propanol (108 ml) are placed into a 1000 ml three-necked round-bottomed flask, fitted with a heating mantle, magnetic stirrer, internal thermometer and argon inlet. The mixture is sparged with nitrogen for 30 minutes to remove dissolved oxygen. The mixture is heated for 18 hours with stirring at 65° C. TLC (diethyl ether) indicates consumption of monomer. The mixture is concentrated under vacuum by rotary evaporation to remove the solvent. Water is added to make a 10% solution and the mixture is lyophilized and then pulverized in a blender to yield a white powder. NMR is consistent with the desired compound.

reactant | 2-(methylamino)ethyl methacrylate | 623.3 mmol, 98.00 g | C(C(=C)C)(=O)OCCNC | C7H13NO2
reactant | methacrylic acid | 311.7 mmol, 26.83 g | C(C(=C)C)(=O)O | C4H6O2
reactant | 2,2′-azobisisobutyronitrile | 4.7 mmol, 0.77 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | 1,4-dioxane | 435 ml | O1CCOCC1 | C4H8O2
reactant | 2-propanol | 108 ml | CC(C)O | C3H8O
product | DMAM | CC(C)CC(C)OC(=O)/C=C\C(=O)OC(C)CC(C)C | C16H28O4
